US06992087B2
Preparation of 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 4,5,6,7-tetrahydro-1-benzothiophen-4-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.67 (s, 1H), 7.10 (d, J=5.2 Hz, 1H), 6.93 (d, J=5.2 Hz, 1H), 5.40 (m, 1H), 4.50 (bs, 1H), 2.83 (m, 2H), 2.66 (q, J=7.5 Hz, 2H), 2.56 (q, J=7.5 Hz, 2H), 2.10 (m, 1H), 1.96 (m, 3H), 1.29 (m, 6H); (MS/CI) calcd for C16H21N3S+H 287.4, found 287.9.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 4,5,6,7-tetrahydro-1-benzothiophen-4-amine | S1C=CC2=C1CCCC2N | C8H11NS
product | 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C1C=CS2 | C16H21N3S
